US06953806B2
A solution of 222 mg (corresponds to 0.40 mmol) of crude trans-methanesulfonic acid 3-(4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexyl)-prop-2-ynyl ester in 4 ml of methanol was cooled to 0° C., treated with 0.34 ml (4 mmol) of piperidine and stirred over night at room temperature. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/ether (3×). The organic phase was dried with sodium sulfate, filtered and evaporated. Purification by flash column chromatography on silica gel (methylenechloride/methanol 99:1 to 98:2) gave 92 mg (57%) of pure trans-methyl-[4-(3-piperidin-1-yl-prop-1-ynyl)-cyclohexylmethyl]-carbamic acid 4-chloro-phenyl ester as light yellow viscous oil, MS: 403 (MH+, 1Cl). The following compounds were prepared from the corresponding mesylates and secondary amines:

reactant | trans-methanesulfonic acid 3-(4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexyl)-prop-2-ynyl ester | 0.40 mmol, 222 mg | ClC1=CC=C(OC(=O)N(C)C[C@@H]2CC[C@H](CC2)C#CCOS(=O)(=O)C)C=C1 | C19H24ClNO5S
reactant | piperidine | 4 mmol, 0.34 ml | N1CCCCC1 | C5H11N
solvent | methanol | 4 ml | CO | CH4O
product | trans-methyl-[4-(3-piperidin-1-yl-prop-1-ynyl)-cyclohexylmethyl]-carbamic acid 4-chloro-phenyl ester | 92 mg, 57% | ClC1=CC=C(C=C1)OC(N(C[C@@H]1CC[C@H](CC1)C#CCN1CCCCC1)C)=O | C23H31ClN2O2
